US04855286
(b) 3-Boc-4(S)-Cyclohexylmethyl-2,2-dimethyl-5(R,S)-[2-(4(S,S)-sec.-butyloxazolin-2-yl)ethyl]oxazolidine
3.76 g of 4(S,S)-sec.-butyl-2-methyloxazoline and 4.0 ml of N,N,N',N'-tetramethylethylenediamine are dissolved in 100 ml of THF and, at -78° C., added dropwise to 14.9 ml of a 1.6M solution of n-butyllithium in hexane are added dropwise. The mixture is stirred at this temperature for 30 min and then 1.15 g of 3-Boc-4(S)-cyclohexylmethyl-2,2-dimethyl-5(R,S)-iodomethyloxazolidine in 10 ml of THF are added dropwise. The reaction solution is stirred at R.T. for 1 h and is poured into 200 ml of saturated aqueous NaHCO3 solution, and the mixture is extracted 3 times with 200 ml of EA. Drying over Na2SO4 and concentration in vacuo is followed by chromatography on silica gel (mobile phase MTB/diisopropyl ether 1:1). The title compound is obtained as a colorless oil.

reactant | 4(S,S)-sec.-butyl-2-methyloxazoline | 3.76 g | [C@H](C)(CC)[C@@H]1N=C(OC1)C | C8H15NO
reactant | N,N,N',N'-tetramethylethylenediamine | 4.0 ml | CN(CCN(C)C)C | C6H16N2
reactant | n-butyllithium | C(CCC)[Li]
reactant | 3-Boc-4(S)-cyclohexylmethyl-2,2-dimethyl-5(R,S)-iodomethyloxazolidine | 1.15 g | C(=O)(OC(C)(C)C)N1C(OC([C@@H]1CC1CCCCC1)CI)(C)C | C18H32INO3
reactant | NaHCO3 | 200 ml | C(=O)(O)[O-].[Na+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-Boc-4(S)-Cyclohexylmethyl-2,2-dimethyl-5(R,S)-[2-(4(S,S)-sec.-butyloxazolin-2-yl)ethyl]oxazolidine | C(=O)(OC(C)(C)C)N1C(OC([C@@H]1CC1CCCCC1)CCC=1OC[C@@H](N1)[C@@H](C)CC)(C)C | C26H46N2O4
